US09260441B2
Step C: 2-Methyl-3-(4-piperidyl)pyridine hydrochloride
tert-Butyl 4-(2-methyl-3-pyridyl)piperidine-1-carboxylate (100 mg, 0.36 mmol) was dissolved in methanol (4 ml) and combined with hydrochloric acid (4N in dioxane, 10 ml) and the mixture was stirred at room temperature for two hours. The volatiles were removed under reduced pressure to yield 54 mg of a beige solid (0.25 mmol, 69%) MS (ESI) m/z=177.1 [M+1]+.

reactant | tert-Butyl 4-(2-methyl-3-pyridyl)piperidine-1-carboxylate | 0.36 mmol, 100 mg | CC1=NC=CC=C1C1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | hydrochloric acid | 4N, 10 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | 2-Methyl-3-(4-piperidyl)pyridine hydrochloride | 0.25 mmol, 54 mg, 69% | Cl.CC1=NC=CC=C1C1CCNCC1 | InChI=1S/C11H16N2.ClH/c1-9-11(3-2-6-13-9)10-4-7-12-8-5-10;/h2-3,6,10,12H,4-5,7-8H2,1H3;1H
